US09023840B2
Step 1: 5-bromo-N-[(1S)-1-cyclopropylethy]pyridine-2-carboxamide
(1S)-1-Cyclopropylethanamine (0.50 mL, 5.4 mmol, Alfa Aesar: Cat. #H27499) was added to a mixture of 5-bromopyridine-2-carboxylic acid (1.0 g, 5.0 mmol, Alfa Aesar: Cat. #B25675) in methylene chloride (30.0 mL), followed by benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.4 g, 5.4 mmol) and N,N-diisopropylethylamine (1.7 mL, 9.9 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with aqueous Na2CO3, and extracted with dichloromethylene (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-15%) to afford the desired product. LCMS (M+H)+: m/z=269.0/271.0.

reactant | (1S)-1-Cyclopropylethanamine | 5.4 mmol, 0.50 mL | C1(CC1)[C@H](C)N | C5H11N
reactant | 5-bromopyridine-2-carboxylic acid | 5.0 mmol, 1.0 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 5.4 mmol, 2.4 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 9.9 mmol, 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 30.0 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-[(1S)-1-cyclopropylethy]pyridine-2-carboxamide | BrC=1C=CC(=NC1)C(=O)N[C@@H](C)C1CC1 | C11H13BrN2O
